* source OPAX828_TEST_CIRCUIT
C_CL         0 OUT  30p  TC=0,0 
V_VEE         0 N27303 12Vdc
V_VCC         N27354 0 12Vdc
V_Vin         VIN 0  AC 1
+SIN 0 100m 1k 0 0 0
R_R1         VIN VOS  2k TC=0,0 
R_R2         VOS OUT  2k TC=0,0 
C_C1         N27303 0  100n  TC=0,0 
C_C2         0 N27354  100n  TC=0,0 
R_RL         0 OUT  2k TC=0,0 
X_U1         0 VOS N27354 N27303 OUT OPAX828
